US06288096B1
A mixture of 0.85 g (2.11 mmole) of 4-(trifluoromethylsulfonyloxy)phenethyl trifluoromethansulfonate, 0.27 g (2.2 mmole) p-hydroxybenzaldehyde and 0.72 g (2.2 mmole) cesium carbonate in acetonitrile was stirred at room temperature over night. The salts were filtered off and the solvent evaporated in vacuo. Purification by chromatography on silica gel using dichloromethane as eluent gave 0.6 g (yield 75%) of 4-[2-(4-formylphenoxy)ethyl]phenyl trifluoromethanesulfonate.

reactant | 4-(trifluoromethylsulfonyloxy)phenethyl trifluoromethansulfonate | 2.11 mmole, 0.85 g | FC(S(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)(F)F | C10H8F6O6S2
reactant | p-hydroxybenzaldehyde | 2.2 mmole, 0.27 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cesium carbonate | 2.2 mmole, 0.72 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]phenyl trifluoromethanesulfonate | 0.6 g, yield 75% | FC(S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O)(F)F | C16H13F3O5S
